US05885999
c) N-[2-(4-Benzylpiperazin-1-yl)phenyl]methanesulfonamide
Methanesulfonyl chloride (0.91 mL, 11.7 mmol) was added to a cooled (0° C.) solution of 1-(2-aminophenyl)-4-benzylpiperazine (2.61 g, 9.8 mmol) and pyridine (0.95 mL, 11.7 mmol) in dichloromethane (30 mL) and the mixture was stirred at room temperature for 16 h. The solvent was evaporated under reduced pressure and triethylamine (1.4 mL) was added. The mixture was azeotroped with xylene, diluted with ethyl acetate and washed with aqueous potassium carbonate (saturated, 3×). The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2 /MeOH (99:1) to give the title compound as yellow oil (2.83 g, 84%). δH (250 MHz, CDCl3) 7.88-7.80 (1H, br s), 7.51 (1H, dd, J 1.6, 8.0 Hz), 7.34-7.27 (5H, m), 7.25 (1H, dd, J 1.6, 7.5 Hz), 7.16 (1H, dt, J 1.6, 7.5 Hz), 7.07 (1H, dt, J 1.7, 7.6 Hz), 3.59 (2H, s), 3.04 (3H, s), 2.90-2.85 (4H, m), and 2.66-2.60 (4H, br s).

reactant | Methanesulfonyl chloride | 11.7 mmol, 0.91 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(2-aminophenyl)-4-benzylpiperazine | 9.8 mmol, 2.61 g | NC1=C(C=CC=C1)N1CCN(CC1)CC1=CC=CC=C1 | C17H21N3
reactant | pyridine | 11.7 mmol, 0.95 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-[2-(4-Benzylpiperazin-1-yl)phenyl]methanesulfonamide | 2.83 g, 84% | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=CC=C1)NS(=O)(=O)C | C18H23N3O2S
